Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[C:4]([H:5])#[C:6][O:7][H:8].[H:1][C:2]=[O:3],-1.43736547236
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2](=[O:3])[H:4]>>[O:1][C:2]([O:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.37882069418
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]#[C:4],5.23861393376
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13],-2.02633502947
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])[H:6],1.31229674251
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2],2.72926230189
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][H:8]>>[C:1][C:2][O:3].[C:4]([H:5])([H:6])=[C:7][H:8],-1.71404099143
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3]([H:4])[C:8]([H:9])([H:10])[H:11],4.93495299442
[O:1][C@@:2]([H:3])([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2]([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],0.1839371211679999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:10][H:11].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11],-2.08609535243
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-0.845206266661
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],4.63947472809
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.93747316047
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11],3.15625305885
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],5.04067932286
[H:1][C:2]#[C:3][C:4]([H:5])[O:7][H:8].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8],-3.6631869914
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.74767553165
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],4.93027898541
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13].[H:4],1.75574795983
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])#[C:5][H:6].[H:1][C:2]([H:7])=[C:8][C:9]([H:10])([H:11])[H:12],-1.21468419225
[O:1]=[C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2],1.71681061651
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],5.36399528287
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:11][C:12]([H:13])([H:14])[H:15],5.55440335441
[C:7]([H:8])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:9]([H:10])[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-5.1467021469
[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-6.36521317628
[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.24568652791
[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([O:9][C:6]([H:7])[H:8])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]1([H:5])[C:6]([H:7])([H:8])[O:9][C:10]1([H:11])[H:12],0.0510497519099
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.84947353577
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.9182383717
